2174-05-28 07:22:00 Physician Resident Progress Note
Chief Complaint: None
   24 Hour Events:
   Received Hydral 10 mg x1 for HTN
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-5-28**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 49 (40 - 49) bpm
   BP: 172/56(87) {125/53(87) - 207/68(113)} mmHg
   RR: 19 (13 - 19) insp/min
   SpO2: 98%
   Heart rhythm: 2nd AV M2 (Second degree AV Block - Mobitz 2)
             Total In:
             33 mL
   PO:
             TF:
   IVF:
   33 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    325 mL
   Urine:
   325 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -292 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic), irregular and brady
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender:
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   243 K/uL
   11.7 g/dL
   110 mg/dL
   1.2 mg/dL
   25 mEq/L
   4.6 mEq/L
   26 mg/dL
   104 mEq/L
   139 mEq/L
   35.0 %
   9.7 K/uL
        [image002.jpg]
                             [**2174-5-28**]  04:42 AM
   WBC
   9.7
   Hct
   35.0
   Plt
   243
   Cr
   1.2
   TropT
   <0.01
   Glucose
   110
   Other labs: PT / PTT / INR:13.1/27.1/1.1, CK / CKMB /
   Troponin-T:216/5/<0.01, Ca++:9.1 mg/dL, Mg++:2.1 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   88yo woman w hx of HTN, hypothyroidism, hyperlipidemia who came in with
   syncope and found to have 2:1 AV block.  .
   .
   RHYTHM:  Mobitz type I or II could present with 2:1 block. Could
   perform vagal maneuvers to eval for block at AV node or perform
   exercise, atropine rx, etc to eval for block below AV node.  Will hold
   on these measures since she is stable.
   - Etiology likely from atenolol and slight worsening renal function.
   Also consider ischemic (accounts for 40% cases of AV block), increased
   vagal tone, or calcification of mitral valve.  She is maintaining BP
   but will monitor for hemodynamic instability.
   - d/w EP urgently at night if HD unstable.
   - atropine and [**Hospital1 **] pads at bedside
   - hold atenolol and consider more glucagon if bradycardia worsens.
   - EKG in am
   - will d/w EP in am re ? pacer as this appears to be symptomatic
   bradycardia a/w 2nd degree AV block.
   .
   CORONARIES: no known CAD.  EKG without ischemic changes.  Given that
   ischemia can lead to AV block, will continue cycle CE.
   - hold atenolol
   - continue asa
   .
   PUMP: Lungs clear but perhaps some mild pulmonary congestion on exam.
   Will keep I/O even for now but consider lasix if pulm edema worsens.
   Suspect cardiac output will improve with increasing HR
   .
   Rib Pain: No fracture and no effusion seen on CXR.
   - morphine and tylenol for pain control
   - Ice
   .
   Hypertension: on atenolol and lisinopril as outpatient.  Hold ACE in
   setting of renal dysfunction and try hydral prn.  Hold atenolol w
   bradycardia.  Treat pain with morphine.  Tolerate SBP 170s
   .
   ARF: Baseline creatinine 1.1-1.3 and now 1.5 with GFR 35.  Will hold
   ACE tonight and keep I/O even.  Check urine lytes
   .
   Hyperlipidemia: statin
   .
   Depression: fluoxetine 20 but hold ativan.  Monitor for delirium
   - check u/a to risk assess for delirium
   .
   Hypothyroidism: levothyroxine 75.  Will check TSH given the
   bradycardia.
   .
   FEN: NPO for now until stabilizes
   ACCESS: PIV's
   PROPHYLAXIS:
   -DVT ppx with SQH
   -Pain management with morphine IV and tylenol PO
   -Bowel regimen with senna/colace
   CODE: full
   DISPO: CCU for now
   CONTACT: [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 6317**] is nephew [**Name (NI) 117**]
   ICU [**Name (NI) 232**]
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2174-5-28**] 02:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2174-05-29 07:16:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2174-5-28**] 09:52 PM
   UA sent as ordered
   - Stopped Foley
   - Atropine non-diagnostic
   - Gave zyprexa 2.5mg for agitation
   - DNR DNI per HCP
   - Increased Levothyroxine to 88 for TSH = 10
   - CE: CK 216 >200, MB 5>4, Trop flat
   - Quite deleriouos overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history: No changes
   Review of systems is unchanged from admission except as noted below
   Review of systems: No changes
   Flowsheet Data as of  [**2174-5-29**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.2
C (97.1
   HR: 43 (39 - 68) bpm
   BP: 160/62(98) {105/44(64) - 203/121(167)} mmHg
   RR: 21 (11 - 25) insp/min
   SpO2: 97%
   Heart rhythm: 2nd AV M2 (Second degree AV Block - Mobitz 2)
                  Total In:
                                                                    190 mL
                                                                     60 mL
   PO:
                                                                     30 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    160 mL
   Blood products:
   Total out:
                                                                    775 mL
                                                                     50 mL
   Urine:
                                                                    775 mL
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -585 mL
                                                                     10 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///25/
   Physical Examination
   Gen: NAD, A and Ox1, Somewhat tangential in thought process
   HEENT: Perrla, EOMI, MM dry
   Chest: CTA bilaterally
   CV: Bradycardic, irregular, no m/r/g, Abd: +BS, soft, nt, nd
   Ext: WWP, no c/c/e
   Labs / Radiology
   249 K/uL
   12.3 g/dL
   112 mg/dL
   1.1 mg/dL
   25 mEq/L
   4.2 mEq/L
   24 mg/dL
   104 mEq/L
   140 mEq/L
   37.1 %
   10.2 K/uL
        [image002.jpg]
                             [**2174-5-28**]  04:42 AM
                             [**2174-5-28**]  01:20 PM
                             [**2174-5-29**]  04:57 AM
   WBC
   9.7
   10.2
   Hct
   35.0
   37.1
   Plt
   243
   249
   Cr
   1.2
   1.1
   TropT
   <0.01
   <0.01
   Glucose
   110
   112
   Other labs: PT / PTT / INR:13.1/27.1/1.1, CK / CKMB /
   Troponin-T:200/4/<0.01, Ca++:9.3 mg/dL, Mg++:2.1 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 DELIRIUM / CONFUSION
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 HYPERTENSION, BENIGN
 INEFFECTIVE COPING
   88yo woman w hx of HTN, hypothyroidism, hyperlipidemia who came in with
   syncope and found to have 2:1 AV block.  .
   .
   RHYTHM:  Mobitz type I or II could present with 2:1 block. Could
   perform vagal maneuvers to eval for block at AV node or perform
   exercise, atropine rx, etc to eval for block below AV node.  Will hold
   on these measures since she is stable.
   - Etiology likely from atenolol and slight worsening renal function.
   Also consider ischemic (accounts for 40% cases of AV block), increased
   vagal tone, or calcification of mitral valve.  She is maintaining BP
   but will monitor for hemodynamic instability.
   - d/w EP urgently at night if HD unstable.
   - atropine and [**Hospital1 **] pads at bedside
   - hold atenolol and consider more glucagon if bradycardia worsens.
   - pacer to be placed Mon as this appears to be symptomatic bradycardia
   a/w 2nd degree AV block.
   - In anticipation of pacer on Mon, NPO after midnight on Sunday night
   and ensure left PIV
   .
   CORONARIES: no known CAD.  EKG without ischemic changes.  Given that
   ischemia can lead to AV block, will continue cycle CE.
   - hold atenolol
   - continue asa
   .
   PUMP: Lungs clear but perhaps some mild pulmonary congestion on exam.
   Will keep I/O even for now but consider lasix if pulm edema worsens.
   Suspect cardiac output will improve with increasing HR
   .
   Rib Pain: No fracture and no effusion seen on CXR.
   - morphine and tylenol for pain control
   - Ice
   .
   Hypertension: on atenolol and lisinopril as outpatient.  Hold ACE in
   setting of renal dysfunction and try hydral prn.  Hold atenolol w
   bradycardia.  Treat pain with morphine.  Tolerate SBP 170s
   .
   ARF: Baseline creatinine 1.1-1.3 and now 1.5 with GFR 35.  Will hold
   ACE tonight and keep I/O even.  Check urine lytes
   .
   Hyperlipidemia: statin
   .
   Depression: fluoxetine 20 but hold ativan.  Monitor for delirium
   - check u/a to risk assess for delirium
   .
   Hypothyroidism: levothyroxine 75.  Will check TSH given the
   bradycardia.
   .
   FEN: NPO for now until stabilizes
   ACCESS: PIV's
   PROPHYLAXIS:
   -DVT ppx with SQH
   -Pain management with morphine IV and tylenol PO
   -Bowel regimen with senna/colace
   CODE: full
   DISPO: CCU for now
   CONTACT: [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 6317**] is nephew [**Name (NI) 117**]
   ICU [**Name (NI) 232**]
   Nutrition:
   Glycemic Control: Blood sugar well controlled
   Lines:
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2174-5-28**] 02:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2174-05-30 06:48:00 Physician Resident Progress Note
Chief Complaint: None
   24 Hour Events:
   - Morphine discontinued
   - NPO p breakfast in anticipation of pacemaker placement - per Dr.
   [**Last Name (STitle) 4877**], she'll go late
   - Haldol 1 mg IV for agitation
   - Trazodone 25mg PO x1
   - Hydralazine 10mg IV x1
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   No complaints
   Flowsheet Data as of  [**2174-5-30**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.8
   HR: 47 (39 - 73) bpm
   BP: 127/33(58) {104/23(25) - 209/157(162)} mmHg
   RR: 19 (15 - 25) insp/min
   SpO2: 95%
   Heart rhythm: 2nd AV M2 (Second degree AV Block - Mobitz 2)
                  Total In:
                                                                    300 mL
                  PO:
                                                                    300 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                     50 mL
                                                                      0 mL
   Urine:
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    250 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ////
   Physical Examination
   Gen: NAD, Difficult to arouse, but awakes to sternal rub, When awakes
   patient oriented x1 (person)
   HEENT: Perrla, EOMI, MM dry
   Chest: CTA bilaterally  in anterior fields
   CV: Bradycardic, irregular, no m/r/g, Abd: +BS, soft, nt, nd
   Ext: WWP, no c/c/e
   Labs / Radiology
   249 K/uL
   12.3 g/dL
   112 mg/dL
   1.1 mg/dL
   25 mEq/L
   4.2 mEq/L
   24 mg/dL
   104 mEq/L
   140 mEq/L
   37.1 %
   10.2 K/uL
        [image002.jpg]
                             [**2174-5-28**]  04:42 AM
                             [**2174-5-28**]  01:20 PM
                             [**2174-5-29**]  04:57 AM
   WBC
   9.7
   10.2
   Hct
   35.0
   37.1
   Plt
   243
   249
   Cr
   1.2
   1.1
   TropT
   <0.01
   <0.01
   Glucose
   110
   112
   Other labs: PT / PTT / INR:13.1/27.1/1.1, CK / CKMB /
   Troponin-T:200/4/<0.01, Ca++:9.3 mg/dL, Mg++:2.1 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan:
   88 yo F with Depression, Hypothyroidism p/w syncope and found to have
   newly diagnosed 2:1 av block now awaiting pacemaker.
   .
   RHYTHM:  Mobitz type I or II could present with 2:1 block. Atropine
   testing nondiagnostic by EP over the weekend. ROMI complete so unlikely
   ischemic in etiology, although 40% new 2:1 av block can be ischemic in
   origin. Plan for pacemaker since patient is symptomatic from AV block
   (assumed syncope due av block).
   - atropine and [**Hospital1 **] pads at bedside
   - hold atenolol and consider more glucagon if bradycardia worsens.
   - pacer to be placed Today
   ..
   CORONARIES: no known CAD.  EKG without ischemic changes.
   - hold atenolol given av block
   - continue asa
   .
   PUMP: Lungs clear on exam.  Will keep I/O even for now but consider
   lasix if pulm edema worsens.  Suspect cardiac output will improve with
   increasing HR
   .
   Rib Pain: No fracture and no effusion seen on CXR.
   - morphine and tylenol for pain control
   - Ice
   - Consider repeat CXR in [**12-31**] days to reassess for rib fx
   .
   Hypertension: on atenolol and lisinopril as outpatient.  Holding
   atenolol as above. HTN be partially due to agitation.
   - Continue Lisinopril 20 mg daily
   - Agitation as below
   .
   ARF: Baseline creatinine 1.1-1.3 and now 1.1. Likely due to decreased
   CO and forward flow.
   - Trend Cr and lytes
   - Renally dose meds
   .
   Hyperlipidemia: continue statin
   .
   Depression/Delerium: On SSRI. Required haldol for agitation yesterday
   and now somnolent. Delirium likely due to not sleeping over last 72 hrs
   in house. [**Month (only) 11**] also be exacerbated by SSRI.  U cx ngtd and afebrile.
   - Continue Haldol prn for agitation. Continue to monitor for worsening
   QTc
   - Hold fluoxetine for now
   - follow urine cx
   .
   Hypothyroidism:  On levothyroxine 75.  TSH elevated at 10 which may
   indicated patient could use uptitration of synthroid.
   -          Will defer titration of synthroid to outpatient providers
   -          .
   .
   Coagulopathy: Newly found elevated PTT today. [**Month (only) 11**] be lab error or could
   be having systemic absorption of Heparin.
   - Repeat PTT and Hct. If PTT elevated, will consider d/c heparin for
   pneumoboots
   .
   FEN: NPO for now awaiting procedure
   ACCESS: PIV's
   PROPHYLAXIS:
   -DVT ppx with SQH
   -Pain management with morphine IV and tylenol PO
   -Bowel regimen with senna/colace
   CODE: full
   DISPO: CCU for now
   CONTACT: [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 6317**] is nephew [**Name (NI) 117**]

2174-05-31 07:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - D/c Fluoxetine for concern of exacerbating delerium
   - Repeat INR/Hct . Hct 35.1 and PTT normalized at 34.
   - [**Company **] Sensia SEDR01 dual chamber pacer placed
   - Was hypotensive to SBP 50s during procedure. Received atropine x1.
   TTE in cath lab did not reveal pericardial effusion. Hypotsn felt to be
   vagal. Received IVFs 1L IV fluid bolus and SBP improved to 140s. Also
   had Afib with RVR to 150s that resolved without intervention.
   - EP recs - Vanco in Am and start keflex x3 days starting [**2174-5-31**],
   Obtain portable CXR tommorow and PA and Lat when called out of CCU
   - Code status reversed for procedure x 24 hrs to FC
   - continues to be confused and delerious
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2174-5-31**] 05:25 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2174-5-30**] 10:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-5-31**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.7
   HR: 80 (36 - 110) bpm
   BP: 135/64(82) {97/26(41) - 162/64(82)} mmHg
   RR: 23 (15 - 27) insp/min
   SpO2: 95%
   Heart rhythm: V Paced
             Total In:
                                                                  1,180 mL
                                                                    614 mL
   PO:
                                                                     30 mL
                                                                    340 mL
   TF:
   IVF:
                                                                  1,150 mL
                                                                    274 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,180 mL
                                                                    614 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///22/
   Physical Examination
   Gen: NAD, arousable, pt awakes patient oriented x1 (person), confused
   and disoriented. pleasant
   HEENT: Perrla, EOMI, MMM
   Chest: CTA bilaterally  in anterior fields
   CV: S1, S2, RRR, II/VI SEM, Abd: +BS, soft, nt, nd
   Ext: WWP, no c/c/e
   Labs / Radiology
   262 K/uL
   12.9 g/dL
   105 mg/dL
   1.2 mg/dL
   22 mEq/L
   4.4 mEq/L
   27 mg/dL
   107 mEq/L
   142 mEq/L
   38.2 %
   11.2 K/uL
        [image002.jpg]
                             [**2174-5-28**]  04:42 AM
                             [**2174-5-28**]  01:20 PM
                             [**2174-5-29**]  04:57 AM
                             [**2174-5-30**]  06:32 AM
                             [**2174-5-30**]  08:20 PM
                             [**2174-5-31**]  04:38 AM
   WBC
   9.7
   10.2
   8.8
   11.2
   Hct
   35.0
   37.1
   34.5
   35.1
   38.2
   Plt
   243
   249
   238
   262
   Cr
   1.2
   1.1
   1.2
   1.2
   TropT
   <0.01
   <0.01
   Glucose
   110
   112
   111
   105
   Other labs: PT / PTT / INR:12.7/29.9/1.1, CK / CKMB /
   Troponin-T:200/4/<0.01, Differential-Neuts:81.8 %, Lymph:11.0 %,
   Mono:5.9 %, Eos:1.0 %, Ca++:9.2 mg/dL, Mg++:2.2 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   88 yo F with Depression, Hypothyroidism p/w syncope and found to have
   newly diagnosed 2:1 av block now awaiting pacemaker.
   .
   RHYTHM:  Pt had pacer placed yesterday, pt was hypotensive (SBP 50
   during procedure, likely vagal. TTE did not show pericardial effusion.
   Receiced IVF bous. Pt [**Name (NI) 5118**] and in the 70-80
s. Pt received vanco x1.
   Mobitz type I or II could present with 2:1 block. Atropine testing
   nondiagnostic by EP over the weekend. ROMI complete so unlikely
   ischemic in etiology, although 40% new 2:1 av block can be ischemic in
   origin.
   - will start keflex today x3 days
   - portable CXR this AM, PA/Lat when on the floor
   - pain control with Tylenol (holding narc given delirium)
   .
   CORONARIES: no known CAD.  EKG without ischemic changes.
   -          continue asa
   -          hold on BB for now given recent pacer.
   .
   PUMP: Bibasialr crackles  Will keep I/O even for now but consider lasix
   if pulm edema worsens.  Suspect cardiac output will improve with
   increasing HR. f/u CXR
   .
   Rib Pain: No fracture and no effusion seen on CXR.
   - tylenol for pain control
   - Ice
   - Consider repeat CXR in [**12-31**] days to reassess for rib fx
   .
   Hypertension: on atenolol and lisinopril as outpatient. HTN be
   partially due to agitation.
   - Continue Lisinopril 20 mg daily
   - holding  atenolol for now given recent pacermaker placement. Hold on
   additional meds for now given delirium. Can add amlodipine for BP
   control if needed
   - Agitation as below
   .
   ARF: Baseline creatinine 1.1-1.3 and now 1.1. Likely due to decreased
   CO and forward flow.
   - Trend Cr and lytes
   - Renally dose meds
   .
   Hyperlipidemia: continue statin
   .
   Depression/Delerium: SSRI d/c. Has not required haldol overnight. Still
   confused Delirium likely due to not sleeping over last 72 hrs in house.
   [**Month (only) 11**] also be exacerbated by SSRI.  Ucx ngtd and afebrile.  No focal
   neuro deficits.
   - Continue Haldol prn for agitation. Continue to monitor for worsening
   QTc
   - Hold fluoxetine for now
   - follow urine cx
   - encourage family for re-orientation. Try to maintain sleep wake cycle
   - no indication for imaging at this time
   .
   Hypothyroidism:  On levothyroxine 75.  TSH elevated at 10 which may
   indicated patient could use uptitration of synthroid.
   -          Will defer titration of synthroid to outpatient providers
   -          .
   .
   .
   FEN: cardiac regular
   ACCESS: PIV's
   PROPHYLAXIS:
   -DVT ppx with SQH
   -Pain management with tylenol PO
   -Bowel regimen with senna/colace
   CODE: full
   DISPO: stable and will call out to the floors
   CONTACT: [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 6317**] is nephew [**Name (NI) 117**]
   ICU [**Name (NI) 232**]
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2174-5-28**] 02:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: